US06787541B1
Methanesulphonic Acid 2-(4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidin-2-yl)hydrazide (Example 128)
A mixture of 2-hydrazinothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (110 mg, 0.4 mmol) and Et3N (61 μL, 0.44 mmol) in THF (5 mL) was treated with methanesulphonyl chloride (31 μl, 0.4 mmol), stirred at room temperature for 20 min, poured into water (25 mL), extracted with EtOAc (2×5 mL), dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography [SiO2: (EtOAc) to give the title compound (92 mg, 65%) as an orange solid.

reactant | 2-hydrazinothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.4 mmol, 110 mg | N(N)C=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | C11H8N4OS2
reactant | Et3N | 0.44 mmol, 61 μL | CCN(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.4 mmol, 31 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 25 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methanesulphonic Acid 2-(4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidin-2-yl)hydrazide | 92 mg, 65% | S1C(=CC=C1)C(=O)C=1C2=C(N=C(N1)NNS(=O)(=O)C)C=CS2 | C12H10N4O3S3
